US09388197B2
A.1.9.7. 6,7-Dihydro-5H-pyrano[2,3-d]thiazole-7-carbonitrile
To a mixture of 6,7-dihydro-5H-pyrano[2,3-d]thiazol-7-ol (0.65 g, 4.14 mmol), acetone cyanohydrin (880 mg, 10.3 mmol) and (n-Bu)3P (1.67 g, 8.27 mmol) in THF (79 mL) was added at 0° C. 1,1′-(azodicarbonyl)dipiperidine (2.09 g, 8.27 mmol). The mixture was stirred at 0° C. for 30 min, then, it was allowed to warm to RT and was stirred for 2 h. Subsequently, the reaction mixture was diluted with diisopropyl ether, filtrated and the filtrate was conc. in vacuo. Purification by means of CC (5-70% EtOAc/Hept) provided a yellow solid.

reactant | 6,7-dihydro-5H-pyrano[2,3-d]thiazol-7-ol | 4.14 mmol, 0.65 g | S1C=NC2=C1C(CCO2)O | C6H7NO2S
reactant | acetone cyanohydrin | 10.3 mmol, 880 mg | CC(C#N)(O)C | C4H7NO
reactant | (n-Bu)3P | 8.27 mmol, 1.67 g | P(CCCC)(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 8.27 mmol, 2.09 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 79 mL | C1CCOC1 | C4H8O
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 6,7-Dihydro-5H-pyrano[2,3-d]thiazole-7-carbonitrile | S1C=NC2=C1C(CCO2)C#N | C7H6N2OS
